* NGSPICE file created from st_2v1.ext - technology: ihp-sg13g2

.subckt st_2v1_pex VDD A Y VSS
X0 a_142_n38# Y VSS.t0 VDD sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X1 Y A a_142_n38# VDD sg13_lv_pmos ad=0.408p pd=3.08u as=0.228p ps=1.58u w=1.2u l=0.13u
X2 VDD Y a_142_n594# VSS.t1 sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X3 a_142_n594# A VSS.t3 VSS.t2 sg13_lv_nmos ad=0.228p pd=1.58u as=0.408p ps=3.08u w=1.2u l=0.13u
X4 a_142_n38# A VDD VDD sg13_lv_pmos ad=0.228p pd=1.58u as=0.408p ps=3.08u w=1.2u l=0.13u
X5 Y A a_142_n594# VSS.t4 sg13_lv_nmos ad=0.408p pd=3.08u as=0.228p ps=1.58u w=1.2u l=0.13u
R0 VSS.n2 VSS.t2 567.396
R1 VSS.t2 VSS.t1 181.035
R2 VSS.t1 VSS.t4 7.91862
R3 VSS.n0 VSS.t3 5.66717
R4 VSS.n1 VSS.n2 0.27313
R5 VSS.n1 VSS.n0 0.979865
R6 VSS.n1 VSS.t0 1.37141
R7 VSS.n2 VSS.t4 1.59233
R8 VSS VSS.n0 1.05085
R9 VSS VSS.t0 1.01184
C0 a_142_n38# VDD 0.10773f
C1 a_142_n38# Y 0.13526f
C2 A VDD 0.62845f
C3 A Y 0.08875f
C4 A a_142_n38# 0.07796f
C5 VDD a_142_n594# 0.04673f
C6 Y a_142_n594# 0.13526f
C7 A a_142_n594# 0.07796f
C8 Y VDD 0.33674f
C9 a_142_n594# VSS 0.34882f
C10 a_142_n38# VSS 0.83674f
C11 VDD VSS 0.84883f
C12 VSS.t0 VSS 0.3061f
.ends

